US06020345
Stage 3: 2-(4,5-dihydrothiazol-2-yl)-6-[1,3]dioxolan-2-yl-pyridine
1 g of 6-[1,3]dioxolan-2-yl-pyridine-2-carboximidic acid methyl ester (4.80 mmol) and 0.47 g of 2-aminoethanethiol (2.16 mmol) are mixed. The mixture is heated at 130° C. for 1 hour 30 minutes. The reaction mixture is taken up in chloroform, washed with water and then dried over magnesium sulfate. After filtration and evaporation of the solvent, the title product is isolated by chromatography on a silica column (eluent: chloroform/methanol; 98:2). 1.10 g of solid are recovered.

reactant | 6-[1,3]dioxolan-2-yl-pyridine-2-carboximidic acid methyl ester | 4.80 mmol, 1 g | COC(=N)C1=NC(=CC=C1)C1OCCO1 | C10H12N2O3
reactant | 2-aminoethanethiol | 2.16 mmol, 0.47 g | NCCS | C2H7NS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(4,5-dihydrothiazol-2-yl)-6-[1,3]dioxolan-2-yl-pyridine | Yield: 97% | S1C(=NCC1)C1=NC(=CC=C1)C1OCCO1 | C11H12N2O2S
